US08912188B2
To a solution of 4-(trifluoromethyl)phenylboronic acid (273 mg, 1.44 mmol) in dioxane (6 mL) was added methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (140 mg, 0.48 mmol), K3PO4 (303 mg, 1.44 mmol), Pd(PPh3)4 (27.6 mg, 0.02 mmol) and water (3 drops), and the reaction mixture was stirred for 4 hours at 90° C. in an oil bath under an inert atmosphere of nitrogen. The reaction mixture was concentrated in vacuo and then purified via silica gel column chromatography (2%-10% ethyl acetate in petroleum ether) to afford methyl 3-(isopropyl(methyl)amino)-2-(4-(trifluoromethyl)phenyl)quinoxaline-6-carboxylate as a light yellow solid (158 mg, 82%).

reactant | 4-(trifluoromethyl)phenylboronic acid | 1.44 mmol, 273 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.48 mmol, 140 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | K3PO4 | 1.44 mmol, 303 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 27.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(isopropyl(methyl)amino)-2-(4-(trifluoromethyl)phenyl)quinoxaline-6-carboxylate | 158 mg, 82% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)C(F)(F)F)C | C21H20F3N3O2
